US06767718B2
2) N-Decanesulfonyl-L-phenylalanine
A solution of decanesulfonyl chloride (0.8571 g, 3.56 mmol) in ether (7.5 ml) was added to a solution of L-phenylalanine (0.7441 g, 4.40 mmol) in 10 ml of 1.0 N sodium hydroxide and stirred at room temperature overnight. The reaction mixture was extracted with ethyl acetate and the aqueous phase was separated and acidified to pH 1 with 6 N hydrochloric acid. The resulting precipitate was extracted into ethyl acetate and the extract was washed with water and dried with magnesium sulfate. Evaporation of the ethyl acetate gave an oil which crystallized (see Table 1). Yield 0.245 g; FABMS m/z 370(M+H)+, 392(M+Na)+, Calculated for C19H32NO4S, 370.20; C19H31NO4SNa, 392.19.

reactant | decanesulfonyl chloride | 3.56 mmol, 0.8571 g | C(CCCCCCCCC)S(=O)(=O)Cl | C10H21ClO2S
reactant | L-phenylalanine | 4.40 mmol, 0.7441 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | ether | 7.5 ml | CCOCC | C4H10O
solvent | sodium hydroxide | 1.0 N, 10 ml | [OH-].[Na+]
product | N-Decanesulfonyl-L-phenylalanine | C(CCCCCCCCC)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C19H31NO4S
